US07018997B2
Step 2: Preparation of (5R, 6RS)-6-[(RS)-Acetoxy-(5H-imidazo[2,1-a]isoindol-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester:
5H-Imidazo[2,1-a]isoindole-2-carbaldehyde (736.8 mg) was added to the dry acetonitrile (50 mL) solution of anhydrous MgBr2 (1.8 g) under a nitrogen atmosphere at room temperature. The dry THF solution (50 mL) of (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester (1.55 g) was added to the reaction mixture, cooled to −20° C., and triethylamine (1.34 mL) was added in one portion. The reaction vessel was covered with foil to exclude light. The mixture was stirred for 2 h at −20° C. and treated with acetic anhydride (0.76 mL) in one portion. The reaction mixture was warmed to 0° C. and stirred for 18 h at 0° C. The mixture was diluted with ethyl acetate and washed with H2O, saturated sodium hydrogen carbonate, and brine. The organic layer was dried (MgSO4) and filtered through a pad of Celite. The pad was washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was applied to silica gel column chromatography, then eluted with ethyl acetate—hexane (2/3˜1/1). The title compound was obtained as two diastereo mixture (5/1, a pale yellow amorphous solid, 1.8 g, 73%). 1H NMR (400 MHz, CDCl3) δ 2.02 (s, 0.84×3H), 2.27 (s, 0.16×3H), 4.89–4.94 (m, 2H), 5.29 (d, 1H, J=13.6 Hz), 5.47 (d, 1H, J=13.6 Hz), 6.18 (s, 0.16×1H), 6.40 (s, 0.84×1H), 6.42 (s, 0.84×1H), 6.94 (d, 0.16×1H, J=0.9 Hz), 7.18 (d, 0.16×1H, J=0.7 Hz), 7.35–7.48 (m, 3H), 7.51 (s, 0.84×1H), 7.60–7.64 (m, 2H), 7.79–7.83 (m, 1H), 8.23–8.27 (m, 2H).

reactant | 5H-Imidazo[2,1-a]isoindole-2-carbaldehyde | 736.8 mg | N=1C(=CN2C1C1=CC=CC=C1C2)C=O | C11H8N2O
reactant | MgBr2 | 1.8 g | [Mg+2].[Br-].[Br-]
reactant | (5R, 6S)-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | 1.55 g | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C([C@@H]([C@H]3SC2)Br)=O)C=C1 | C13H9BrN2O5S
reactant | acetic anhydride | 0.76 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.34 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | (5R, 6RS)-6-[(RS)-Acetoxy-(5H-imidazo[2,1-a]isoindol-2-yl)-methyl]-6-bromo-7-oxo-4-thia-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylic acid 4-nitro-benzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C=2N3C(C([C@H]3SC2)(Br)C(C=2N=C3N(CC4=CC=CC=C34)C2)OC(C)=O)=O)C=C1 | C26H19BrN4O7S
